US03987160
Sodium dithionite (10.8 g.) was added during 5 minutes to a stirred suspension of the crude sodium salt of 4-amino-2-(5-methyl-2-propoxyphenyl)-5-nitrosopyrimid-6-one (9.3 g.) in water (180 ml.). Stirring was continued for a further 105 minutes, and solid obtained was filtered off, washed with water, and recrystallised from aqueous ethanol to give 4,5-diamino-2-(5-methyl-2-propoxyphenyl)pyrimid-6-one (4.9 g.), m.p. 184°-188° C. (with decomposition).

reactant | Sodium dithionite | 10.8 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | sodium | [Na] | Na
reactant | 4-amino-2-(5-methyl-2-propoxyphenyl)-5-nitrosopyrimid-6-one | 9.3 g | NC=1N=C(NC(C1N=O)=O)C1=C(C=CC(=C1)C)OCCC | C14H16N4O3
solvent | water | 180 ml | O | H2O
product | 4,5-diamino-2-(5-methyl-2-propoxyphenyl)pyrimid-6-one | 4.9 g | NC=1N=C(NC(C1N)=O)C1=C(C=CC(=C1)C)OCCC | C14H18N4O2
